US07473783B2
To a vial charged with 3-(4-hydroxyphenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine (60 mg, 0.259 mmol), PS-DMAP (Argonaut resin, 1.05 g, 6 equiv.), and a stirring bar were added THF (2.5 mL) and cyclopropane-carbonyl chloride (118 μL, 1.29 mmol). The reaction mixture was stirred at 70° C. for 15 hours, then cooled to room temperature and treated with PS-trisamine (Argonaut resin, 1.26 g, 20 equiv.) at 50° C. for 48 hours. The resin was filtered, washed with DMF and the solvent was evaporated. Purification on silica gel with 0-8% MeOH in CH2Cl2 as eluent provided 32 mg (41% yield) of cyclopropanecarboxylic acid [3-(4-hydroxy-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-yl]-amide as a white solid. 1H-NMR (d6-DMSO) δ: 13.3 (broad s, 1H), 12.6 (broad s, 1H), 9.80 (broad s, 1H), 7.52 (d, 2H), 6.88 (d, 1H), 1.98 (m, 1H), 0.93 (m, 4H); HPLC/MS m/z: 301.0 [MH]+.

reactant | 3-(4-hydroxyphenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.259 mmol, 60 mg | OC1=CC=C(C=C1)C1=NNC=2N=C(SC21)N | C10H8N4OS
reactant | cyclopropane-carbonyl chloride | 1.29 mmol, 118 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | trisamine | 1.26 g, 20 equiv. | C(C(CO)(CO)N)O | C4H11NO3
catalyst | DMAP | 1.05 g, 6 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | cyclopropanecarboxylic acid [3-(4-hydroxy-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-yl]-amide | 32 mg, 41% yield | OC1=CC=C(C=C1)C1=NNC=2N=C(SC21)NC(=O)C2CC2 | C14H12N4O2S
